US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(5-methoxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
To a solution of tert-butyl (3S,5R)-3-[{[1-(5-hydroxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (150 mg) and triethylamine (70 μl) in tetrahydrofuran (5 ml) was added methanesulfonyl chloride (725 μl) at 0° C., and the mixture was stirred at room temperature for hr. Aqueous sodium bicarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (5 ml), 28% sodium methoxide-methanol solution (482 mg) was added at room temperature and the mixture was stirred at 60° C. for 3 days. The reaction mixture was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (123 mg).

reactant | tert-butyl (3S,5R)-3-[{[1-(5-hydroxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 150 mg | OCCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C32H49N5O6
reactant | triethylamine | 70 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 725 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Tert-butyl (3S,5R)-3-[{[1-(5-methoxypentyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 123 mg | COCCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C33H51N5O6
